US07018997B2
Imidazo[1,2-a]quinoxaline-2-carboxaldehyde
(5R, 6RS)-6-((RS)-Acetoxy imidazo[1,2-a]quinoxalin-2-ylmethyl)-6-bromo-7-oxo-4-thia-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid p-nitrobenzyl ester (951 mg) and 10% Pd—C (50% wet, 477 mg) were added to a mixture of THF (48 mL) and 0.5 mol/L phosphate buffer (pH 6.5, 48 mL). The mixture was hydrogenated at 400 kPa at room temperature for 4 h. The reaction solution was filtered and Pd—C was washed with water and n-butanol. The reaction mixture was cooled to 0° C. and 1 N NaOH was added to adjust the ph to 8.5. The aqueous layer was separated and then the organic layer was extracted with water. The combined aqueous layer was concentrated to 57 g and applied to Diaion HP-21 resin (60 mL, Mitsubishi Kasei Co. Ltd.) column chromatography. After adsorbing, the column was eluted with water and then 5, 10, 15 and 20% acetonitrile:water solution (each 60 mL). The combined fractions were concentrated under high vacuum at 35° C. and lyophilized to give the title compound as a yellow amorphous solid, yield 148 mg (26.1%), mp 300° C. (dec).

reactant | (5R, 6RS)-6-((RS)-Acetoxy imidazo[1,2-a]quinoxalin-2-ylmethyl)-6-bromo-7-oxo-4-thia-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid p-nitrobenzyl ester | 951 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C([C@H]3SC2)(Br)C(C=2N=C3N(C4=CC=CC=C4N=C3)C2)OC(C)=O)=O)C=C1 | C26H18BrN5O7S
reactant | phosphate | 0.5 mol/L, 48 mL, pH 6.5 | P(=O)([O-])([O-])[O-]
catalyst | Pd—C | 477 mg | [Pd] | Pd
solvent | THF | 48 mL | C1CCOC1 | C4H8O
product | Imidazo[1,2-a]quinoxaline-2-carboxaldehyde | C1=C(N=C2N1C1=CC=CC=C1N=C2)C=O | C11H7N3O
